US08530413B2
6-Bromo-4,4-dimethyl-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl 2,2-dimethylpropionate
1.0 g of 6-bromo-3,4-dihydro-4,4-dimethylquinolin-2(1H)-one was dissolved in 10 ml of dry DMF, 3.85 g of cesium carbonate were added and 953 mg of iodomethyl pivalate were added dropwise while cooling with water, and the mixture was stirred at room temperature for 4 hours. The experiment was left to stand at room temperature overnight. Then a further 0.4 ml of iodomethyl pivalate was added at room temperature and the mixture was stirred at room temperature for a further 2 hours. (According to TLC and LC-MS, there is still reactant in the reaction solution). 50 ml of water were added, the mixture was extracted three times with 50 ml each time of ethyl acetate. The combined organic phases were dried over MgSO4, then concentrated under reduced pressure and purified on silica gel with the n-heptane/ethyl acetate solvent mixture as a linear gradient of 100% n-heptane=>100% ethyl acetate. This gave 700 mg of 6-bromo-4,4-dimethyl-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl 2,2-dimethylpropionate.

reactant | 6-bromo-3,4-dihydro-4,4-dimethylquinolin-2(1H)-one | 1.0 g | BrC=1C=C2C(CC(NC2=CC1)=O)(C)C | C11H12BrNO
reactant | cesium carbonate | 3.85 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethyl pivalate | 953 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | water | O | H2O
reactant | iodomethyl pivalate | 0.4 ml | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | water | 50 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-Bromo-4,4-dimethyl-2-oxo-3,4-dihydro-2H-quinolin-1-ylmethyl 2,2-dimethylpropionate | CC(C(=O)OCN1C(CC(C2=CC(=CC=C12)Br)(C)C)=O)(C)C | C17H22BrNO3
